US09382254B2
Step (iii): 1H-Pyrazole-3-carboxylic acid (5-bromo-3-carbamoyl-thiophen-2-yl)-amide
1H-Pyrazole-3-carboxylic acid (3-carbamoyl-thiophen-2-yl)-amide (355 mg, 1.5 mmol) is mixed with AcOH (5 mL). NBS (280 mg, 1.58 mmol) is then added and the mixture is stirred at room temperature overnight. Evaporation gives a residue that is subsequently dissolved in DCM, the resulting organic phase is washed with aqueous NaHCO3, dried over MgSO4, filtered and evaporated to give a residue that is used as such.

reactant | 1H-Pyrazole-3-carboxylic acid (3-carbamoyl-thiophen-2-yl)-amide | 1.5 mmol, 355 mg | C(N)(=O)C1=C(SC=C1)NC(=O)C1=NNC=C1 | C9H8N4O2S
reactant | AcOH | 5 mL | CC(=O)O | C2H4O2
reactant | NBS | 1.58 mmol, 280 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1H-Pyrazole-3-carboxylic acid (5-bromo-3-carbamoyl-thiophen-2-yl)-amide | BrC1=CC(=C(S1)NC(=O)C1=NNC=C1)C(N)=O | C9H7BrN4O2S
